US07344702B2
Synthesis of 2-tert-butyl-4-hydroxymethyl-5-chloro 3(2H)-pyridazinone
2-tert-butyl-4-bromomethyl-5-chloro 3(2H)-pyridazinone (2 g, 7.19 mmol) and calcium carbonate (3.5 gm) are added to a 1:1 mixture of dioxane-water (40 ml). The mixture is refluxed for 6 hours after which 30 ml of 3N HCl solution is added to it. The solution is stirred for 10 minutes after which dioxane is removed under reduced pressure. The resulting solution is then extracted with dichloromethane and the dichloromethane layer is washed and dried. The crude obtained after concentration is purified by flash chromatography (ethyl acetate/hexanes: 1:2).

reactant | 2-tert-butyl-4-bromomethyl-5-chloro 3(2H)-pyridazinone | 7.19 mmol, 2 g | C(C)(C)(C)N1N=CC(=C(C1=O)CBr)Cl | C9H12BrClN2O
reactant | calcium carbonate | 3.5 gm | C([O-])([O-])=O.[Ca+2]
reactant | dioxane water | 40 ml | O1CCOCC1.O
reactant | HCl | 3N, 30 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-tert-butyl-4-hydroxymethyl-5-chloro 3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)CO)Cl | C9H13ClN2O2
